US04279912
4 g of ethyl bromopyruvate were added to a solution of 2 g of 2-amino-4-chloroquinoline [Hardman et al C.S., (1958), p. 614] in 40 ml of dimethoxyethane and the mixture obtained was allowed to stand at room temperature for 30 minutes. The quaternary salt thus precipitated was filtered off, washed with ether and then was dissolved in ethanol. The solution obtained was heated at reflux for 1 hour and then the ethanol was removed under vacuum. The residue was dissolved in chloroform and the solution was washed with dilute sodium carbonate solution and water, was decolorized with charcoal and the solvent was evaporated to leave a white solid. This solid was recrystallized from methanol to obtain fine white needles of ethyl 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate melting at 169°-170° C.

reactant | ethyl bromopyruvate | 4 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | 2-amino-4-chloroquinoline | 2 g | NC1=NC2=CC=CC=C2C(=C1)Cl | C9H7ClN2
solvent | dimethoxyethane | 40 ml | C(OC)COC | C4H10O2
product | ethyl 5-chloroimidazo-[1,2-a]-quinoline-2-carboxylate | ClC1=CC=2N(C3=CC=CC=C13)C=C(N2)C(=O)OCC | C14H11ClN2O2
